US08802659B2
{[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-acetic acid ethyl ester
A solution of 6-(4-tert-butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (90 mg, 0.29 mmol), glycine ethyl ester hydrochloride (162 mg, 1.16 mmol), and triethylamine (0.16 mL, 1.16 mmol) in 1,2-dichloroethane (2 mL) was treated with sodium triacetoxyborohydride (129 mg, 0.58 mmol). The mixture was stirred at room temperature overnight. The solution was diluted with dichloromethane and washed with aqueous sodium bicarbonate. The organic phase was dried over MgSO4 and concentrated. The residue was purified with a silica gel column eluted with ethyl acetate in hexane from 0 to 100% to give product (64 mg, yield: 55%). ESI-MS: 420.30 (M+23)+; 1H NMR (400 MHz, CDCl3) δ=7.66-7.70 (m, 3H), 7.41 (dd, 1H), 7.11-7.14 (m, 2H), 4.26 (m, 1H), 4.19 (q, 2H), 3.93 (s, 2H), 3.43 (s, 2H), 2.28 (d, 4H), 1.89 (d, 2H), 1.44 (q, 2H), 1.27 (t, 3H), 1.09-1.20 (m, 3H), 0.89 (s, 9H).

reactant | 6-(4-tert-butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.29 mmol, 90 mg | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | glycine ethyl ester hydrochloride | 1.16 mmol, 162 mg | Cl.C(C)OC(CN)=O
reactant | triethylamine | 1.16 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.58 mmol, 129 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | {[6-(trans-4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-amino}-acetic acid ethyl ester | 64 mg, yield: 55% | C(C)OC(CNCC1=CC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C25H35NO3
